US07652023B2
To a solution of 3-bromo-5-fluorophenol (104 mmol crude) and iodo-1,1,2,2,-tetrafluoroethane (28.4 g, 125 mmol) in DMSO (80 mL) was added K2CO3 (57.0 g, 420 mmol). The reaction mixture was sealed in a thick walled glass pressure round bottom flask and heated at 70° C. for 18 h. The reaction mixture was allowed to cool to room temperature, diluted with water (500 mL) and extracted with ether (3×200 mL). The combined ether layers were washed with 1N NaOH (2×200 mL), water (2×200 mL) and brine (200 mL). The organic layer was dried over sodium sulfate, filtered and concentrated. The residue was dissolved in ether (150 mL) and filtered through a plug of activated basic alumina. The filtrate was concentrated to give 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene as a pale yellow oil (27.2 g, 88% for two steps) which was used without further purification LCMS: 1.91 min, [M+1] No Ionizable peak (2 min gradient, MeOH/H2O 0.1% TFA); HPLC: 3.76 min (4 min gradient, MeOH/H2O 0.2% PPA) Purity 100%; NMR: 400 MHz 1H (CDCl3) 7.19 ppm, 2H, m; 6.92 ppm, 1H, d, J=8.35 Hz; 5.88 ppm, 1H, tt; J=52.95 Hz and J=2.64 Hz.

reactant | 3-bromo-5-fluorophenol | 104 mmol | BrC=1C=C(C=C(C1)F)O | C6H4BrFO
reactant | iodo-1,1,2,2,-tetrafluoroethane | 125 mmol, 28.4 g | IC(C(F)F)(F)F | C2HF4I
reactant | K2CO3 | 420 mmol, 57.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
solvent | water | 500 mL | O | H2O
product | 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene | BrC1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C8H4BrF5O
